US04977146
trans-2-[3-(2-Oxopropyl-sulfonyl)-4-n-propoxy-5-(2-oxopropoxy)phenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran
A mixture of trans-2-[3-(2- oxopropylsulfonyl)-4-n-propoxy-5-hydroxyphenyl]5- (3,4,5-trimethoxyphenyl)tetrahydrofuran (51 mg, 0.1 mmol), chloroacetone(16 uL, 0.2 mmol) and potassium carbonate (28 mg, 0.2 mmol) in DMF (1 mL) was stirred at room temperature for 40 h. The reaction mixture was diluted with ethyl ether and washed with water and brine. The organic extracts were dried (MgSO4), filtered, and evaporated to a residue (58 mg), which was purified by preparative TLC (hexane ethyl acetate; 3:2. v/v). The title compound was isolated as a colorless foam: Rf 0.38; MS, m/z 564M+.; NMR (CDCl3) δ 1.08(t, CH2CH2CH3), 2.33 & 2.38 (2 s, OCH2COCH3 & SO2CH2COCH3), 4.48 (s, SO2CH2), 4.68 (s, OCH2CO), 5.20 (m, H-2 & H-5), 6.62 (s, 2 H, C5ArH), 7.20 & 7.52 (2 d, 2 H, C2ArH)

reactant | trans-2-[3-(2- oxopropylsulfonyl)-4-n-propoxy-5-hydroxyphenyl]5- (3,4,5-trimethoxyphenyl)tetrahydrofuran | 0.1 mmol, 51 mg | O=C(CS(=O)(=O)C=1C=C(C=C(C1OCCC)O)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC)C | C25H32O9S
reactant | chloroacetone | 0.2 mmol, 16 uL | ClCC(C)=O | C3H5ClO
reactant | potassium carbonate | 0.2 mmol, 28 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
product | trans-2-[3-(2-Oxopropyl-sulfonyl)-4-n-propoxy-5-(2-oxopropoxy)phenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran | O=C(CS(=O)(=O)C=1C=C(C=C(C1OCCC)OCC(C)=O)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC)C | C28H36O10S
